US07858784B2
Synthesis of N1, N4-diphenylbenzene-1,4-diamine (FIG. 13, Table 9, Entry 3)
Following general procedure F, a mixture of chlorobenzene (102 μL, 1.0 mmol), N1-phenylbenzene-1,4-diamine (221 mg, 1.2 mmol), NaOt-Bu (192 mg, 2.0 mmol), 10 (8 mg, 1 mol %), 1 (5 mg, 1 mol %), and dioxane (1 mL) was heated to 80° C. for 2 h. The crude product was purified via the Biotage SP4 (silica-packed 50 g snap; 0-50% EtOAc/Hexane) to provide the title compound as a off-white solid (260 mg, 99%), mp 152-154° C. 1H NMR (300 MHz, CDCl3) δ: 7.27 (t, J=7.5 Hz, 4H), 7.08 (s, 4H), 7.00 (d, J=8.0 Hz, 4H), 6.90 (t, J=7.5 Hz, 2H), 5.59 (s, 2H) ppm. 13C NMR (75 MHz, CDCl3) δ: 144.7, 137.4, 129.6, 121.2, 120.2, 116.5 ppm. IR (neat, cm−1): 3389, 1601, 1512, 1496, 1382, 1313, 1271, 820, 742, 695. Anal. Calcd. for C18H16N2: C, 83.04; H, 6.19. Found: C, 82.81; H, 6.22.

reactant | chlorobenzene | 1.0 mmol, 102 μL | ClC1=CC=CC=C1 | C6H5Cl
reactant | N1-phenylbenzene-1,4-diamine | 1.2 mmol, 221 mg | C1(=CC=CC=C1)NC1=CC=C(C=C1)N | C12H12N2
reactant | NaOt-Bu | 2.0 mmol, 192 mg | CC(C)(C)[O-].[Na+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N1, N4-diphenylbenzene-1,4-diamine | 260 mg, 99% | C1(=CC=CC=C1)NC1=CC=C(C=C1)NC1=CC=CC=C1 | C18H16N2
